US05003089
A mixture of 486 g (3 moles) of 2-methoxymethyl-2-isopropyl-1,3-propanediol, 287 g (3.3 moles) of 85% strength methoxyacetaldehyde and 250 ml of cyclohexane was heated with 5 g of the ion exchanger Lewasorb AC 10 under a water separator until water no longer separated off. The ion exchanger was filtered off, the solvent was stripped off under reduced pressure and the residue was subjected to fractional distillation under reduced pressure. 543 g (83% yield) of 2,5-dimethoxymethyl-5-isopropyl-1,3-dioxane of boiling point 95° C./1 mbar obtained.

reactant | 2-methoxymethyl-2-isopropyl-1,3-propanediol | 3 moles, 486 g | COCC(CO)(CO)C(C)C | C8H18O3
reactant | methoxyacetaldehyde | COCC=O | C3H6O2
reactant | cyclohexane | 250 ml | C1CCCCC1 | C6H12
solvent | water | O | H2O
product | 2,5-dimethoxymethyl-5-isopropyl-1,3-dioxane | 543 g, 83% yield | COCC1OCC(CO1)(C(C)C)COC | C11H22O4
